* source MCU_POWER_BUTTON
V_V1         N00083 0 3.7VDC
R_R1         N00123 N00083  10k TC=0,0 
R_R2         N00130 N00083  100k TC=0,0 
C_C1         N00123 N00130  1u  TC=0,0 
C_C2         N00130 N00083  100n  TC=0,0 
C_C3         N00814 N00807  2.2u  TC=0,0 
R_R3         N00814 N00885  300k TC=0,0 
R_R4         N00885 N00807  100k TC=0,0 
S_U1         N00123 0 N01793 0 _U1
.MODEL      _U1 VSWITCH Roff=100000000 Ron=0.01 VH=0 VT=2VDC TD=0
V_V2         N01793 0  
+PULSE 0 3.7 5 0 0 0.5 20
V_V3         N07567 0  
+PULSE 3.7 0 5.25 0 0 10 20
S_U2         N00885 0 N07567 0 _U2
.MODEL      _U2 VSWITCH Roff=1000000000 Ron=0.01 VH=0 VT=2VDC TD=0
X_D1         N00885 N00123 awb1n4001 PARAMS:                
R_R6         N26477 N26381  100k TC=0,0 
M_M4         N26477 N26909 0 0 MbreakN           
M_M3         N72891 N26477 N26381 N26381 Mbreakp           
V_V6         N26909 0  
+PULSE 3.7 0 5.25 0 0 10 20
C_C4         N26477 N26381  100n  TC=0,0 
V_V4         N26381 0 3.7VDC
S_U3         N27558 0 N26737 0 _U3
.MODEL      _U3 VSWITCH Roff=100000000 Ron=0.01 VH=0 VT=2VDC TD=0
V_V5         N26737 0  
+PULSE 0 3.7 5 0 0 0.5 10
R_R7         0 N26909  1M TC=0,0 
X_D2         N26477 N27558 awb1n5819 PARAMS:                
X_D3         N26909 N27558 awb1n5819 PARAMS:                
R_R8         N29360 N71618  25k TC=0,0 
R_R10         N29360 N26909  330 TC=0,0 
V_V7         N71618 0 3.7VDC
R_R11         0 N72891  25k TC=0,0 
X_M5         N00130 N00814 0 N00807 N00130 N00083 SI3588DV
S_U4         0 N00123 N77915 0 _U4
.MODEL      _U4 VSWITCH Roff=100000000 Ron=0.01 VH=0 VT=2VDC TD=0
V_V8         N77915 0  
+PULSE 0 3.7 15 0 0 3 20
R_R12         0 N00807  1k TC=0,0 
C_C5         0 N00807  100n  TC=0,0 
